US04085210
A mixture of 5-(2,3-epoxypropylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (0.65 g), 2-aminoethyl hydrogensulfate (2.5 g) and sodium hydroxide (1.6 g) in water (8 ml) was stirred in ethanol (11 ml) under reflux for 15 hours. The reaction mixture was concentrated and extracted with chloroform. The chloroform extract was washed with water, dried over anhydrous sodium sulfate and evaporated to afford 5-(morpholin-2-yl)methylidene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene as oily material. M.P., 221° - 224° C (oxalate).

reactant | 5-(2,3-epoxypropylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 0.65 g | O1C(C=C2C3=C(CCC4=C2C=CC=C4)C=CC=C3)C1 | C18H16O
reactant | 2-aminoethyl hydrogensulfate | 2.5 g | S(=O)(=O)(O)OCCN | C2H7NO4S
reactant | sodium hydroxide | 1.6 g | [OH-].[Na+]
solvent | water | 8 ml | O | H2O
solvent | ethanol | 11 ml | C(C)O | C2H6O
product | 5-(morpholin-2-yl)methylidene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | N1CC(OCC1)C=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C20H21NO
